Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Time of Encounter: 9:15pm

___ male with multiple medical problems including COPD on 4L 
home O2, ? chronic diastolic CHF, and Type 2 Diabetes Mellitus 
was admitted from the ED with dyspnea in the setting of known 
trigger. 

Patient went outside his home today for an appointment. As soon 
as he walked outside, he started feeling short of breath, 
light-headed, dizzy, and as if he wsa going to pass out. He went 
inside and sat down for 10 minutes with improvement in his 
light-headedness and dizziness. EMS was called and administered 
an albuterol nebulizer with improvement in his breathing 
symptoms. Going outside is a known trigger for patient's COPD. 
He then presented to the ED. He denies any change in his cough, 
sputum production, fevers, shaking chills, night sweats, or 
hemoptysis. Upon arrival to the floor, he does feel that his 
breathing is somewhat below his baseline, although he denies any 
current shortness of breath. 

Upon arrival to the ED, temp 99.2, HR 100, BP 156/65, RR 18, and 
pulse ox 97% on room air (documented, although patient is on 4L 
home O2). He received albuterol nebs x 2, ipratropium nebs, and 
methylprednisolone 125mg IV x 1. His CXR demonstrated emphysema 
only. 

Review of systems:  
(+) Per HPI. shortness of breath, chronic cough productive of 
green-yellow sputum, chronic nasal congestion 
(-) Denies pain, fever, chills, night sweats, weight loss, 
headache, sinus tenderness, rhinorrhea, shortness of breath, 
chest pain or tightness, palpitations, nausea, vomiting, 
constipation, abdominal pain, change in bladder habits, dysuria, 
arthralgias, or myalgias.  
 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. ___ Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___
Daughter - ___
 
Physical Exam:
T 99.4 / BP 170/79 / HR 94 / RR 22 / Pulse ox 93% on 4L NC
Gen: no acute distress, sitting comfortably in chair, speaking 
clearly and in full sentences, increased work of breathing with 
activity such as moving from chair to bed
HEENT: Clear OP, MMM  
NECK: Supple, No LAD, obese neck, difficult to assess JVD  
CV: RR, NL rate. NL S1, S2. ___ systolic murmur heard best at 
LUSB
LUNGS: CTAB with no wheezes / rales / rhonchi
ABD: obese, Soft, NT, ND. NL BS. No HSM  
EXT: 1+ edema bilaterally. left leg wrapped with ACE bandage and 
no drainage or discharge through dressing.   
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. ___ strength 
throughout. Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 

 
Pertinent Results:
___
Na 149 / K 4.7 / Cl 105 / Co2 39 / BUN 22 / Cr .8 / BG 127
WBC 7.3 / Hct 32.5 / Plt 136
N 91 / L 6 / M 3 / E 1 / B 0
UA - yellow, clear, 1.012, pH 7, trace blood, 30 protein, ___ 
RVCs, 1 WBC, no bacteria, negative for all else

Baseline Hct ___
Baeline Plt 214 on ___
Baseline Bicarbonate ___

CXR ___ - Final Read - Emphysema, mild cardiomegaly. 
Otherwise, unremarkable.

ECG ___ - NSR at ~100bpm, normal axis, no acute ST changes, 
normal intervals, unchanged from prior in ___ male with multiple medical problems including chronic 
diastolic CHF and emphysema on ___ home O2 was admitted from 
the ED with dyspnea, now markedly improved. 

1. Emphysema
Patient presented with his typical COPD flare, and was treated 
with IV solumedrol initially, which was subsequently  
transitioned to oral prednisone.  He was treated with 
doxycycline, albuterol and atrovent nebs. With these measures, 
pt began to return to his previous respiratory baseline, which 
is known to be tenuous.  He was discharged on a short steroid 
taper.

2. Thrombocytopenia
Patient's platelet count has declined since discharge. No 
additional evidence at this time to suggest evidence of 
thrombosis. Platelets increased.

3. Hypertension
Patient's blood pressure is slightly elevated on admission. 
- continue home regimen with amlodipine and lisinopril

4. Osteoporosis
Stable
- continued alendronate, calcium, and vitamin D

5. Chronic Diastolic CHF
Patient has a history reportedly of chronic diastolic CHF, 
although he denies this history. He appears slightly 
hypervolemic with 1+ edema bilaterally, although this may be 
related to venous insufficiency. 
- continued lasix and ACEI

6. Type 2 Diabetes Mellitus
Patient's blood sugars will likely be poorly controlled in the 
setting of solumedrol. 
- continued glyburide and metformin per home regimen
- consider adding insulin sliding scale as patient's 
fingersticks will likely be elevated after methylprednisolone
- continued aspirin

7. GERD: Stable
- continued PPI

8. Hyperlipidemia: Stable
- continued outpatient regimen with simvastatin 5mg PO qhs

9. BPH: Stable
- continued tamsulosin

10. Vitamin B12 deficiency: Stable
- continued outpatient regimen with monthly b12 injections

11. Glaucoma: Stable
- continued outpatient regimen with Xalatan .005% drops qhs in 
each eye

# CODE: FULL CODE
# COMM: Patient, HCP ___ ___

 
Medications on Admission:
1. Albuterol 2 puffs qid prn 
2. Alendronate 70mg PO q weekly
3. Amlodipine 5mg PO daily
4. Fluticasone 100mcg inh daily
5. Advair 500-50 1 inh bid
6. Furosemide 60mg PO daily
7. Glyburide 2.5mg PO daily
8. Combivent 2 puffs qid and prn SOB
9. Lisinopril 40mg PO daily
10. Metformin 1000mg PO bid
11. Pantoprazole 40mg PO bid
12. Simvastatin 5mg PO qhs
13. Tamsulosin .4mg PO qhs
14. Vitamin B12 injection q monthly
15. Xalatan .005% drops qhs in each eye
16. ASA 325mg PO daily
17. Calcium and Vitamin D
18. Ferrous Sulfate 325mg PO daily
19. Docusate 100mg PO tid
20. Magnesium Oxide

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for SOB: over 5 to 15 minutes 
___
times a day for severe SOB not relieved by inhalers.  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
5. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q6H (every 6 hours).  
8. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
11. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Calcium Acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
16. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).  
18. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Petrolatum     Ointment Sig: One (1) Appl Topical TID (3 
times a day) as needed for psoriasis.
Disp:*qs qs* Refills:*0*
20. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 3 days.
Disp:*6 Capsule(s)* Refills:*0*
21. Prednisone 10 mg Tablet Sig: One (1) Tablet PO once a day: 3 
tablets for 2 days, then decrease by 5 mg every other 
day until at 10 mg, then continue 10 mg for 2 days, then every 
other day.
.
Disp:*20 Tablet(s)* Refills:*0*
22. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
23. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
24. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# End-stage COPD with acute exacerbation

 
Discharge Condition:
Stable on 4L

 
Discharge Instructions:
You were admitted with another episode of COPD.  Please take 
your medications as prescribed and seek medical attention if you 

develop worsening shortness of breath.  Please continue your 
efforts to quit smoking; it is imperative that you quit smoking.

 
Followup Instructions:
___